Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ electively admitted for planned right craniotomy for ACA 
clipping
 
Major Surgical or Invasive Procedure:
___: right craniotomy for ACA clipping

 
History of Present Illness:
___ electively admitted for planned right craniotomy for ACA 
clipping
 
Past Medical History:
Significant for rheumatoid arthritis, menorrhagia, acute 
cystitis, high cholesterol, endometrial polyp, dysmenorrhea, 
kidney stones, hypothyroidism, hypertension.
 
Social History:
___
Family History:
There is no family history of aneurysms or strokes.  Her mother 
died from colon cancer and her father died from an MI.
 
Physical Exam:
AT DISCHARGE: 
#ERROR!
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right      3-2mm            Left  3-2mm

EOM: [x]Full [ ]Restricted  Lateral nystagmus bilaterally 

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift: [ ]Yes [x]No    Speech Fluent: [x]Yes [ ]No

Comprehension intact: [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Wound frontal crani: 
- sutures, OTA

 
Pertinent Results:
Please refer to OMR for relevant imaging and lab results. 
 
Brief Hospital Course:
#ACA Aneurysm:
The patient was taken to the OR on ___ and underwent a 
right craniotomy for ACA clipping with Dr. ___. Please see 
separately dictated operative report for complete details of the 
procedure. She tolerated the procedure well and recovered in the 
PACU. She was transferred to the NIMU for close monitoring. Her 
pain remained well controlled, and she was tolerating PO diet. 
She was mobilized out of bed and was voiding without difficulty. 
Her dressing was removed on POD2. Sutures are intact and open to 
air without drainage or signs of infection. She was discharged 
to home with her daughter and instructions for ___ for 
suture removal in the clinic. She was cleared to resume ASA 81mg 
on POD3. 

#Tachycardia
Post-operatively she was tachycardic after receiving hydralazine 
PRN. She was given an IV fluid bolus with minimal improvement. 
EKG showed sinus tachycardia. She was given an additional 500cc 
fluid bolus. TSH was normal at 2.1. Her electrolytes were 
repleted. Orthostatic vital sings were negative for hypotension. 
On discharge her heart rate was normal and she was asymptomatic. 
She was advised to see her PCP for ___ if she experiences 
rapid heart rate or palpitations after discharge. 
 
Medications on Admission:
hydrochlorothiazide 25 mg daily 
hydroxychloroquine 400 mg daily  
levothyroxine 50 mcg daily 
quinapril 5 mg daily
venlafaxine ER 37.5 mg qPM 
Adult 81 mg daily
ferrous sulfate 
multivitamin daily 
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
Do not exceed 4GM acetaminophen in 24 hours   
2.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
Do not drive while taking this medication. Hold for sedation.  
RX *oxycodone 5 mg ___ tablet(s) by mouth q6h PRN Disp #*40 
Tablet Refills:*0 
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Hydroxychloroquine Sulfate 400 mg PO DAILY  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  Quinapril 5 mg PO DAILY  
8.  Venlafaxine XR 37.5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ACA aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your neurosurgeon_x0092_s office and speak to the Nurse 
Practitioner if you experience:

-Any neurological issues, such as change in vision, speech or 
movement

-Swelling, drainage, or redness of your incision

-Any problems with medications, such as nausea vomiting or 
lethargy

-Fever greater than 101.5 degrees Fahrenheit

-Headaches not relieved with prescribed medications

Activity:

-       You may resume Aspirin 81mg on ___. 

-Start to resume all activities as you tolerate _x0096_ but start 
slowly and increase at your own pace.

-Do not operate any motorized vehicle for at least 10 days 
after your surgery _x0096_ your Nurse Practitioner can give you more 
detail at the time of your suture removal.  

Incision Care:

-Keep your wound clean and dry.

-Do not use shampoo until your sutures are removed. 

-When you are allowed to shampoo your hair, let the shampoo run 
off the incision line.  Gently pad the incision with a towel to 
dry.

-Do not rub, scrub, scratch, or pick at any scabs on the 
incision line.

-You need your sutures removed 7 to 10 days after surgery

Post-Operative Experiences: Physical

-Jaw pain on the same side as your surgery; this goes away 
after about a month

-You may experience constipation.  Constipation can be 
prevented by:

oDrinking plenty of fluids
oIncreasing fiber in your diet by eating vegetables, prunes, 
fiber rich breads and cereals, or fiber supplements
oExercising
oUsing over-the-counter bowel stimulants or laxatives as 
needed, stopping usage if you experience loose bowel movements 
or diarrhea

-Fatigue which will slowly resolve over time

-Numbness or tingling in the area of the incision; this can 
take weeks or months to fully resolve

-Muffled hearing in the ear near the incision area

-Low back pain or shooting pain down the leg which can resolve 
with increased activity

Post-Operative Experiences: Emotional

-You may experience depression.  Symptoms of depression can 
include

oFeeling _x0093_down_x0094_ or sad
oIrritability, frustration, and confusion
oDistractibility
oLower Self-Esteem/Relationship Challenges
oInsomnia
oLoneliness

-If you experience these symptoms, you can contact your Primary 
Care Provider who can make a referral to a Psychologist or 
Psychiatrist

-You can also seek out a local Brain Aneurysm Support Group in 
your area through the Brain Aneurysm Foundation

oMore information can be found at ___

 
Followup Instructions:
___